US04737514
A mixture of 6-cyano-2-fluorothioxanthen-9-one 10,10-dioxide, 5.2 g (0.02 mol), ethylenediamine, 1.2 g (0.02 mol), and sodium methoxide, 0.08 g (0.0015 mol), in methanol, 76 ml, was refluxed for 4 days. Additional ethylenediamine, 1.2 g (0.02 mol), was added and reflux continued for 5 days. The mixture was poured into ice and the precipitate was filtered, dried and recrystallised from ethanol, DMSO and H2O; affording 2.6 g of 6-(2-imidazolin-2-yl)-2-fluorothioxanthen-9-one 10,10-dioxide, m.p. 248°-249° C.; TLC on silica gel (triethylamine; ethanol; hexane/1:1:2), Rf =0.8.

reactant | 6-cyano-2-fluorothioxanthen-9-one 10,10-dioxide | C(#N)C=1C=C2S(C=3C=CC(=CC3C(C2=CC1)=O)F)(=O)=O | C14H6FNO3S
reactant | ethylenediamine | C(CN)N | C2H8N2
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 6-(2-imidazolin-2-yl)-2-fluorothioxanthen-9-one 10,10-dioxide | 2.6 g | N1C(=NCC1)C=1C=C2S(C=3C=CC(=CC3C(C2=CC1)=O)F)(=O)=O | C16H11FN2O3S
